US08809544B2
1 ml of a chloroform solution containing 0.22 g (1.0 mmol) of 2-t-butoxycarbonyl amino-6-methylpyridine-N-oxide was added dropwise to 5 mL of a chloroform solution containing 2.0 mmol of para-nitrobenzoyl chloride over 10 minutes at room temperature. After 20 minutes had elapsed therefrom, the reaction mixture was cooled to −15° C., and 0.30 g (3.0 mmol) of triethylamine was added dropwise thereto over 5 minutes. After 5 minutes had elapsed therefrom, 1 ml of a chloroform solution containing 0.20 g (0.67 mmol) of triphosgene was added dropwise thereto over a period of 5 minutes. After 20 minutes had elapsed therefrom, 0.20 g (2.0 mmol) of triethylamine was added dropwise thereto over 5 minutes, and the resulting mixture was then stirred for 30 minutes. The resulting reaction solution was poured into saturated sodium bicarbonate water, and was extracted with ethyl acetate. The organic layer was dried with magnesium sulfate, filtered and concentrated. The resulting crude product was purified by column chromatography (hexane/ethyl acetate) to obtain 2-t-butoxycarbonyl-2-para-nitrobenzoyl amino-6-chloromethylpyridine which was the target product with a yield of 64% (as measured by HPLC).

reactant | 2-t-butoxycarbonyl amino-6-methylpyridine-N-oxide | 1.0 mmol, 0.22 g | C(C)(C)(C)OC(=O)C1=[N+](C(=CC=C1N)C)[O-] | C11H16N2O3
reactant | para-nitrobenzoyl chloride | 2.0 mmol | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | triethylamine | 3.0 mmol, 0.30 g | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.67 mmol, 0.20 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 2.0 mmol, 0.20 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-t-butoxycarbonyl-2-para-nitrobenzoyl amino-6-chloromethylpyridine | yield of 64% | C(C)(C)(C)OC(=O)C1(NC(=CC=C1N)CCl)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C18H20ClN3O5
